US06596772B1
4-[2-(2-Methyl-5-trifluoromethanesulfonylamino-indol-1-yl)-acetylamino]-benzoic acid (85).
Same procedure as Example 82 except (2-Methyl-5-trifluoromethanesulfonylamino-indol-1-yl)-acetic acid and 4-aminobenzoic methyl ester was used. 1H-NMR (400 MHz, DMSO-d6) δ 12.72 (s, 1H, COOH), 11.45 (s, 1H, SNH), 10,73 (s, 1H, NHCO), 7.90 (d, J=7 Hz, 2H, ArH), 7.70 (d, 2H, ArH), 7.38 (d, J=9 Hz, 1H, H-7), 7.32 (d, J=2 Hz, 1H, H-4), 6.94 (dd, J=2, 8 Hz, 1H, H-6), 6.28 (s, 1H, H-3), 5.04 (s, 2H, CH2), 2.38 (s, 3H, CH3), MS m/z 454 (M−H).

reactant | (2-Methyl-5-trifluoromethanesulfonylamino-indol-1-yl)-acetic acid | CC=1N(C2=CC=C(C=C2C1)NS(=O)(=O)C(F)(F)F)CC(=O)O | C12H11F3N2O4S
reactant | 4-aminobenzoic methyl ester | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
product | 4-[2-(2-Methyl-5-trifluoromethanesulfonylamino-indol-1-yl)-acetylamino]-benzoic acid | CC=1N(C2=CC=C(C=C2C1)NS(=O)(=O)C(F)(F)F)CC(=O)NC1=CC=C(C(=O)O)C=C1 | C19H16F3N3O5S
